US04864022
7β-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2(Z)-ethoxyiminoacetamido]-3-[(5-methylimidazo[1,5-a]pyridinium-2-yl)methyl]-3-cephem-4-carboxylate
By the procedure of Example 1, 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2(Z)-ethoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid is reacted with 5-methylimidazo[1,5-a]pyridine to give the title compound.

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2(Z)-ethoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OCC | C18H20N6O8S2
reactant | 5-methylimidazo[1,5-a]pyridine | CC1=CC=CC=2N1C=NC2 | C8H8N2
product | 7β-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2(Z)-ethoxyiminoacetamido]-3-[(5-methylimidazo[1,5-a]pyridinium-2-yl)methyl]-3-cephem-4-carboxylate | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CN3C(C=CC=C3C)=C2)C(=O)[O-])C1=O)=N/OCC | C22H22N8O5S2
